US06503907B2
300 mg (0.96 mmol) {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methylamine in 10 ml THF were treated with 150 mg (1.4 mmol) 2-chloroethylisocyanate and the mixture stirred at room temperature during 10 hours. After addition of 0.2 ml NEt3 the mixture was stirred for an additional hour and treated with 0.1 M aqueous HCl. Extraction with Et2O, drying of the combined organic layers with Na2SO4, Evaporation of the solvent, and column chromatography on silica gel with CH2Cl2/MeOH/NEt3 10:1:0.1 gave 60 mg (16%) (4,5-Dihydro-oxazol-2-yl)-{4-[1-(4-fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-amine, MS: 382 (MH+).

reactant | {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methylamine | 0.96 mmol, 300 mg | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OCCCCNC | C19H21FN2O
reactant | 2-chloroethylisocyanate | 1.4 mmol, 150 mg | ClCCN=C=O | C3H4ClNO
reactant | NEt3 | 0.2 ml | CCN(CC)CC | C6H15N
reactant | HCl | 0.1 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (4,5-Dihydro-oxazol-2-yl)-{4-[1-(4-fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-amine | 60 mg, 16% | O1C(=NCC1)N(C)CCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C22H24FN3O2
